US06359134B1
A mixture of 6-tert-butoxycarbonylaminothionicotinamide (506 mg), ethyl 2-chloro-acetoacetate (492 mg) and sodium acetate (252 mg) in ethanol (20 ml) was heated for 2 hours under reflux, and to the mixture were added sodium hydrogen carbonate aqueous solution and water. The precipitated crystals were collected by filtration, and the crystals were successively washed with water, ethanol and ether to give ethyl 2-(6-tert-butoxycarbonylamino-3-pyridyl)-4-methyl-5-thiazolecarboxylate (200 mg).

reactant | 6-tert-butoxycarbonylaminothionicotinamide | 506 mg | C(C)(C)(C)OC(=O)NC1=NC=C(C(=S)N)C=C1 | C11H15N3O2S
reactant | ethyl 2-chloro-acetoacetate | 492 mg | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | sodium acetate | 252 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 2-(6-tert-butoxycarbonylamino-3-pyridyl)-4-methyl-5-thiazolecarboxylate | 200 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=N1)C=1SC(=C(N1)C)C(=O)OCC | C17H21N3O4S
